US08097617B2
Step 15.4: [6-(2,4-Dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methanol.
A solution of 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester (394 mg, 1.23 mmol) and MeOH (0.15 mL, 3.68 mmol) in THF (8 mL) was cooled to 0° C. (ice bath) then LiBH4 (2 M solution in THF, 1.8 mL, 3.6 mmol) was added dropwise and the resulting mixture was heated at 50° C. and stirred for 4 h. The reaction mixture was cooled to RT, quenched by the addition of a saturated NH4Cl solution in water, diluted in water and extracted with AcOEt (2×). The combined organic fractions were dried over Na2SO4, filtered and evaporated to dryness. The remaining residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/MeOH 99:1→8.2) to yield the title compound (156 mg, 0.53 mmol, 43%). MS: 293 [M+1]+; HPLC: AtRet=1.20, TLC: RF 0.20 (DCM/MeOH 95:5).

reactant | 6-(2,4-dichloro-phenyl)-imidazo[1,2-a]pyridine-7-carboxylic acid methyl ester | 1.23 mmol, 394 mg | COC(=O)C1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C=CN2 | C15H10Cl2N2O2
reactant | MeOH | 3.68 mmol, 0.15 mL | CO | CH4O
reactant | LiBH4 | 3.6 mmol, 2 M, 1.8 mL | [Li+].[BH4-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [6-(2,4-Dichloro-phenyl)-imidazo[1,2-a]pyridin-7-yl]-methanol | 0.53 mmol, 156 mg, 43% | ClC1=C(C=CC(=C1)Cl)C=1C(=CC=2N(C1)C=CN2)CO | C14H10Cl2N2O
